US08541457B2
Synthesis of 4-Methyl-2-[(naphthalene-1-carbonyl)amino]thiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use naphthalene-1-carbonyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 12% yield; m.p. 99-101° C.; 1H NMR (CDCl3, 300 MHz) δ 8.40 (d, J=7.5 Hz, 1H), 7.99 (d, J=8.3 Hz, 1H), 7.87 (d, J=7.5 Hz, 1H), 7.85 (d, J=7.5 Hz, 1H), 7.79-7.76 (m, 8H), 5.93 (t, J=5.6 Hz, 1H), 4.57 (d, J=5.6 Hz, 2H), 2.09 (s, 3H); MS (ES+) m/z 402.2 (M+1).

reactant | naphthalene-1-carbonyl chloride | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 4-Methyl-2-[(naphthalene-1-carbonyl)amino]thiazole-5-carboxylic Acid Benzylamide | 12% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)C1=CC=CC2=CC=CC=C12)C | C23H19N3O2S
